US06239151B1
(E)-2(R)-[1(S)-(Hydroxycarbanoyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-(2-ureidoacetyl)valerohydrazide
The (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-(2-ureidoacetyl)valerohydrazide used as the starting material was prepared in a manner analogous to Example 11 using hydantoic acid in place of N-acetyl-glycine.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-(2-ureidoacetyl)valerohydrazide | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C(CNC(=O)N)=O)CC(C)C)CC(C)C | C29H45N5O6
reactant | hydantoic acid | C(CNC(=O)N)(=O)O | C3H6N2O3
product | (E)-2(R)-[1(S)-(Hydroxycarbanoyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-(2-ureidoacetyl)valerohydrazide | OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C(CNC(=O)N)=O)CC(C)C)CC(C)C | C24H36N4O5
